US05298652
A solution of 1.0 g (1.36 mmol) of N-(2-ethoxy-2-oxoethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-(5-octadecyloxy)benzoyl]glycine ethyl ester and 1.1 ml (6.6 mmol) of 6N NaOH in 25 ml of methanol was stirred at room temperature for 4 hours. The solvent was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to an oil which was purified by chromatography on 30 g of silica gel (230-400 mesh) using 25% methanol-chloroform to give 0.66 g (71% yield) of N-(carboxymethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-(5-octadecyloxy)benzoyl]glycine as an oil. The structure was confirmed by nmr and mass spectra.

reactant | N-(2-ethoxy-2-oxoethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-(5-octadecyloxy)benzoyl]glycine ethyl ester | 1.36 mmol, 1.0 g | C(C)OC(CN(C(C1=C(C(=CC=C1)OCCOCCOCCOCC)OC(CCCC)CCCCCCCCCCCCC)=O)CC(=O)OCC)=O | C41H71NO10
reactant | NaOH | 6.6 mmol, 6N, 1.1 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | N-(carboxymethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-(5-octadecyloxy)benzoyl]glycine | 0.66 g, 71% yield | C(=O)(O)CN(CC(=O)O)C(C1=C(C(=CC=C1)OCCOCCOCCOCC)OC(CCCC)CCCCCCCCCCCCC)=O | C37H63NO10
